US08283284B2
<Triphenylmethane Type Leuco Dyes>
3,3-bis(p-Dimethyl aminophenyl)-6-dimethylaminophthalide [alternate name: crystal violet lactone] and 3,3-bis(p-Dimethyl aminophenyl) phthalide [alternate name: malachite green lactone]

reactant | 3,3-bis(p-Dimethyl aminophenyl)-6-dimethylaminophthalide | CC1(C(C=C(C=C1)C)N)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1(C(C=C(C=C1)C)N)C | C26H33N3O2
reactant | 3,3-bis(p-Dimethyl aminophenyl) phthalide | CC1(C(C=C(C=C1)C)N)C1(OC(=O)C2=CC=CC=C12)C1(C(C=C(C=C1)C)N)C | C24H28N2O2
product | Triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
